US07964608B2
4-Chloro-6-fluoro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.88 mmol) was treated with 4-fluoro-butylamine following general procedure B to afford 6-fluoro-4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (175 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (95 mg) following general procedure E. The above ethylamide (95 mg, 0.28 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 3-ethyl-9-fluoro-1-(4-fluoro-butyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (52 mg). LCMS: m/z 364 [M+1]+.

reactant | 4-Chloro-6-fluoro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.88 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1Cl)F)OC | C13H11ClFNO3
reactant | 4-fluoro-butylamine | FCCCCN | C4H10FN
product | 6-fluoro-4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 175 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1NCCCCF)F)OC | C17H20F2N2O3
